US08563505B2
A solution of 1,4-dibromobenzene (5.11 g, 21.67 mmol), potassium carbonate (6.91 g, 50.0 mmol) and 2-formyl-4-methoxyphenylboronic acid (3 g, 16.67 mmol) in DME (75 mL) and water (15 mL) (in a pressure vessel) was sparged with nitrogen for 15 min. Pd(Ph3P)4 (0.578 g, 0.500 mmol) was added and then the reaction was heated to 90° C. overnight. The reaction was cooled to r.t. and evaporated on rotovap. The residue was diluted with EtOAc and washed with water then brine, dried over MgSO4, filtered and evaporated to give the crude material. The crude material was purified by flash chromatography on the Biotage (5-15% EtOAc:Hex) to give 4′-bromo-4-methoxybiphenyl-2-carbaldehyde (2.72 g, 9.34 mmol, 56% yield) as a white solid. 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 3.91 (s, 3H) 7.18-7.26 (m, 3H) 7.34 (d, J=824 Hz, 1H) 7.52 (d, J=2.75 Hz, 1H) 7.54-7.70 (m, 2H) 9.94 (s, 1H).

reactant | 1,4-dibromobenzene | 21.67 mmol, 5.11 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | potassium carbonate | 50.0 mmol, 6.91 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-formyl-4-methoxyphenylboronic acid | 16.67 mmol, 3 g | C(=O)C1=C(C=CC(=C1)OC)B(O)O | C8H9BO4
solvent | DME | 75 mL | COCCOC | C4H10O2
solvent | water | 15 mL | O | H2O
catalyst | Pd(Ph3P)4 | 0.500 mmol, 0.578 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4′-bromo-4-methoxybiphenyl-2-carbaldehyde | 9.34 mmol, 2.72 g, 56% yield | BrC1=CC=C(C=C1)C=1C(=CC(=CC1)OC)C=O | C14H11BrO2
